US09034900B2
Step 3: 5-bromo-1-methyl-3-(methylamino)pyridin-2-one
To a solution of tert-butyl N-(5-bromo-1-methyl-2-oxopyridin-3-yl)-N-methylcarbamate (94.8 mg, crude) in DCM (10 mL) was added HCl/dioxane (1 mL, 4 M) dropwise with stirring at 30° C. The reaction mixture was stirred at 30° C. for 30 min. The mixture was filtered and the filter cake collected. The filtrate was adjusted to pH=9 with saturated aqueous NaHCO3, extracted with ethyl acetate (20 mL), dried over Na2SO4, filtered and concentrated to give a green solid which was combined with the filter cake to give the title compound (43.2 mg). 1H NMR (CDCl3 400 MHz): δ 6.74 (d, J=2.4 Hz, 1H), 6.18 (d, J=2.4 Hz, 1H), 5.15 (s, 1H), 3.53 (s, 3H), 2.83 (s, 3H). LCMS (M+H)+ 217.

reactant | tert-butyl N-(5-bromo-1-methyl-2-oxopyridin-3-yl)-N-methylcarbamate | 94.8 mg | BrC=1C=C(C(N(C1)C)=O)N(C(OC(C)(C)C)=O)C | C12H17BrN2O3
reactant | HCl dioxane | 4 M, 1 mL | Cl.O1CCOCC1
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-1-methyl-3-(methylamino)pyridin-2-one | 43.2 mg | BrC=1C=C(C(N(C1)C)=O)NC | C7H9BrN2O
